US07538112B2
Step 2: tert-Butyl {(1S)-2-[(bromoacetyl)ethylamino]-1-methylethyl}carbamate
To a cold (0° C.) stirred solution of tert-butyl[(1S)-2-(ethylamino)-1-methylethyl]carbamate (11.0 g, 54.6 mmol) in a mixture of ethyl acetate (107 mL) and saturated aqueous sodium bicarbonate (65 mL), bromoacetyl bromide (12.1 g, 60.0 mmol) was added portionwise under an atmosphere of nitrogen. The mixture was allowed to warm up to room temperature over a period of 3.5 hours. The organic phase was separated, washed successively with saturated aqueous sodium bicarbonate, and brine. The organic extract was dried over anhydrous sodium sulfate, filtered, and concentrated under vacuum. The residue was concentrated as a solution in toluene under vacuum to afford the title compound. ES MS M+1=323, 325.

reactant | tert-butyl[(1S)-2-(ethylamino)-1-methylethyl]carbamate | 54.6 mmol, 11.0 g | C(C)(C)(C)OC(N[C@H](CNCC)C)=O | C10H22N2O2
reactant | sodium bicarbonate | 65 mL | C([O-])(O)=O.[Na+]
reactant | bromoacetyl bromide | 60.0 mmol, 12.1 g | BrCC(=O)Br | C2H2Br2O
solvent | ethyl acetate | 107 mL | C(C)(=O)OCC | C4H8O2
product | tert-Butyl {(1S)-2-[(bromoacetyl)ethylamino]-1-methylethyl}carbamate | BrCC(=O)CCNC[C@H](C)NC(OC(C)(C)C)=O | C12H23BrN2O3
